US09085578B2
2-bromo-5-(4,4-difluoropiperidin-1-yl)pyrazine
A solution of 2,5-dibromopyrazine (200 mg), 4,4-difluoropiperidine hydrochloride (132 mg) and cesium carbonate (603 mg) in dimethyl sulfoxide (5 mL) was stirred overnight at 90° C. under nitrogen atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (89 mg).

reactant | 2,5-dibromopyrazine | 200 mg | BrC1=NC=C(N=C1)Br | C4H2Br2N2
reactant | 4,4-difluoropiperidine hydrochloride | 132 mg | Cl.FC1(CCNCC1)F
reactant | cesium carbonate | 603 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-bromo-5-(4,4-difluoropiperidin-1-yl)pyrazine | 89 mg | BrC1=NC=C(N=C1)N1CCC(CC1)(F)F | C9H10BrF2N3
